US05990142
2D 8-Nitro-4-oxo-4H-1-benzopyran-2-carbonitrile
Phosphorous oxychloride (2.86 ml) was added very slowly at 0° C. to dry N,N-dimethylformamide (40 ml) and the mixture was left under stirring at room temperature for 35 minutes. After that a solution of 8-nitro-4-oxo-4H-1-benzopyran-2-carboxamide (1.515 g, 6.47 mmol) in N,N-dimethylformamide (10 ml) was added and the mixture was left under stirring at room temperature for 18 h. After this time, the reaction mixture was poured onto an ice-water mixture (100 ml) and extracted with ethyl acetate (4×40 ml). After drying and removing the solvents under reduced pressure, a residue was obtained which was purified by chromatography through a silica gel column. Eluting with hexane:chloroform, 7:3, 1.094 g of the title product were recovered (78% yield).

reactant | Phosphorous oxychloride | 2.86 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 8-nitro-4-oxo-4H-1-benzopyran-2-carboxamide | 6.47 mmol, 1.515 g | [N+](=O)([O-])C1=CC=CC=2C(C=C(OC21)C(=O)N)=O | C10H6N2O5
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 8-Nitro-4-oxo-4H-1-benzopyran-2-carbonitrile | 78% yield | [N+](=O)([O-])C1=CC=CC=2C(C=C(OC21)C#N)=O | C10H4N2O4
